* C:\Users\Server\Dropbox\Y8-Sp\new-ee457\hw-n-proj\Project\8-bit-SR-piso\Testbench-SR.asc
XX1 PL_n CP vdd 0 vdd 0 Q_n 0 Q vdd vdd 0 vdd 0 NC_01 vdd sr
V1 vdd 0 3.3
V2 CP 0 PULSE(0 3.3 0 1n 1n 5n 10n)
V3 PL_n 0 PULSE(3.3 0 5n 1n 1n 20n)

* block symbol definitions
.subckt sr PL_n CP D4 D5 D6 D7 Q7_n GND Q7 DS D0 D1 D2 D3 CE_n VCC
XX1 N009 N010 CLK N005 N013 NC_01 d-ff
XX2 N010 N011 CLK N006 N014 NC_02 d-ff
XX3 N011 N012 CLK N007 N015 NC_03 d-ff
XX4 N012 Q3 CLK N008 N016 NC_04 d-ff
XX5 Q3 N030 CLK N026 N033 NC_05 d-ff
XX6 N030 N031 CLK N027 N034 NC_06 d-ff
XX7 N031 N032 CLK N028 N035 NC_07 d-ff
XX8 N032 Q CLK N029 N036 Q_n d-ff
XX11 N001 PL N005 nand2 params: size = 1
XX12 N002 PL N006 nand2 params: size = 1
XX13 N003 PL N007 nand2 params: size = 1
XX14 N004 PL N008 nand2 params: size = 1
XX15 D0 N001 schmitt
XX16 D1 N002 schmitt
XX17 D2 N003 schmitt
XX18 D3 N004 schmitt
XX19 PL N017 N013 nand2 params: size = 1
XX20 PL N018 N014 nand2 params: size = 1
XX21 PL N019 N015 nand2 params: size = 1
XX22 PL N020 N016 nand2 params: size = 1
XX23 N001 N017 inv params: size = 1
XX24 N002 N018 inv params: size = 1
XX25 N003 N019 inv params: size = 1
XX26 N004 N020 inv params: size = 1
XX27 DS N009 schmitt
XX28 N022 PL N026 nand2 params: size = 1
XX29 N023 PL N027 nand2 params: size = 1
XX30 N024 PL N028 nand2 params: size = 1
XX31 N025 PL N029 nand2 params: size = 1
XX32 PL N040 N036 nand2 params: size = 1
XX33 PL N039 N035 nand2 params: size = 1
XX34 PL N038 N034 nand2 params: size = 1
XX35 PL N037 N033 nand2 params: size = 1
XX36 D4 N022 schmitt
XX37 D5 N023 schmitt
XX38 D6 N024 schmitt
XX39 D7 N025 schmitt
XX40 N022 N037 inv params: size = 1
XX41 N023 N038 inv params: size = 1
XX42 N024 N039 inv params: size = 1
XX43 N025 N040 inv params: size = 1
XX44 PL_n PL inv params: size = 1
XX9 CP N021 inv params: size = 1
XX10 N021 CLK inv params: size = 4.405
XX47 Q N041 inv params: size = 1
XX48 N041 N042 inv params: size = 3.833
XX49 N042 N043 inv params: size = 14.69
XX50 N043 N044 inv params: size = 56.31
XX51 N044 N045 inv params: size = 215.9
XX52 N045 N046 inv params: size = 827.4
XX53 N046 N047 inv params: size = 3171
XX54 N047 Q7 inv params: size = 12155
XX55 Q_n N048 inv params: size = 1
XX56 N048 N049 inv params: size = 3.833
XX57 N049 N050 inv params: size = 14.69
XX58 N050 N051 inv params: size = 56.31
XX59 N051 N052 inv params: size = 215.9
XX60 N052 N053 inv params: size = 827.4
XX61 N053 N054 inv params: size = 3171
XX62 N054 Q7_n inv params: size = 12155
.ends sr

.subckt d-ff D Q CP SD_n RD_n Q_n
XX1 CP RD_n N003 nand2 params: size = 1.21277
XX2 CP SD_n N005 nand2 params: size = 1.21277
XX3 N003 N005 N004 nor2 params: size = 1.78723
XX5 D N006 CK_n CK tg params: size = 1
XX6 N006 N007 CK CK_n tg params: size = 1
XX7 N006 N008 inv params: size = 1
XX8 N008 N007 inv params: size = 1
XX9 N008 N001 CK CK_n tg params: size = 1
XX10 N001 N009 CK_n CK tg params: size = 1
XX11 N001 N002 inv params: size = 1
XX12 N002 N009 inv params: size = 1
XX13 N002 Q_n inv params: size = 1
XX14 N001 Q inv params: size = 1
XX15 RD_n RD inv params: size = 1
XX16 SD_n SD inv params: size = 1
XX17 vdd N001 RD RD_n tg params: size = 1
XX18 0 N001 SD SD_n tg params: size = 1
XX19 vdd N002 SD SD_n tg params: size = 1
XX20 0 N002 RD RD_n tg params: size = 1
V1 vdd 0 3.3
XX4 N004 CK_n inv params: size = 1
XX21 N004 CK vdd 0 tg params: size = 1
.ends d-ff

.subckt nand2 I1 I2 O
V1 vdd 0 3.3
M1 O I1 N001 0 NM l=0.35u w={size*0.35u}
M2 N001 I2 0 0 NM l=0.35u w={size*0.35u}
M3 O I1 vdd vdd PM l=0.35u w={3.7*size*0.35u}
M4 O I2 vdd vdd PM l=0.35u w={3.7*size*0.35u}
.include ee457_035.lib
.param size=1
.ends nand2

.subckt schmitt I O
M1 N001 I 0 0 NM l=0.35u w={10*0.35u}
M2 N001 I vdd vdd PM l=0.35u w={3.7*10*0.35u}
M3 N001 O 0 0 NM l=0.35u w=0.35u
M4 N001 O vdd vdd PM l=0.35u w={5*3.7*0.35u}
M5 O N001 0 0 NM l=0.35u w={5*0.35u}
M6 O N001 vdd vdd PM l=0.35u w={3.7*0.35u}
V1 vdd 0 3.3
.include ee457_035.lib
.ends schmitt

.subckt inv I O
M1 O I 0 0 NM l=0.35u w={0.35u*size}
M2 O I vdd vdd PM l=0.35u w={3.7*size*0.35u}
V1 vdd 0 3.3
.include ee457_035.lib
.param size=1
.ends inv

.subckt nor2 I1 I2 O
M1 O I1 0 0 NM l=0.35u w={size*0.35u}
M2 O I2 0 0 NM l=0.35u w={size*0.35u}
M3 O I2 N001 vdd PM l=0.35u w={3.7*size*0.35u}
M4 N001 I1 vdd vdd PM l=0.35u w={3.7*size*0.35u}
V1 vdd 0 3.3
.include ee457_035.lib
.param size = 1
.ends nor2

.subckt tg I O CLK CLK_n
M1 I CLK O 0 NM l=0.35u w={size*0.35u}
M2 O CLK_n I vdd PM l=0.35u w={3.7*size*0.35u}
V1 vdd 0 3.3
.include ee457_035.lib
.param size=1
.ends tg

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Server\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0.5u
.backanno
.end
